US08039463B2
HOBt (153 mg, 1.13 mmol) and DMAP (172 mg, 1.4 mmol) were added to a stirred solution of 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid (325 mg, 9.45 mmol) in DMF (2 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (217 mg, 1.13 mmol) followed by 4-[1,2,4]oxadiazol-3-yl-phenylamine-2-yl-amine (152 mg, 9.4 mmol) were added. The reaction mixture was stirred at the room temperature overnight then diluted with water and the product extracted with ethyl acetate. The organics were washed with brine solution, dried over Na2SO4 and evaporated. The residue was washed with ether and dried to afford 220 mg (48%) of N-(4-[1,2,4]oxadiazol-3-yl-phenyl)-3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide. LCMS: 488.15 (M+1)+, 96.97%. 1H NMR: (CDCl3): δ 10.0 (d, 1H), 8.74 (s, 1H), 8.08 (d, 2H), 7.7 (m, 3H), 7.6 (m, 2H), 7.34 (d, 1H), 4.02 (m, 2H), 3.7 (m, 3H), 3.5 (m, 4H), 3.26 (m, 2H).

reactant | HOBt | 1.13 mmol, 153 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid | 9.45 mmol, 325 mg | O=C(CC(=O)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C15H15F3N2O4
reactant | EDCI.HCl | 1.13 mmol, 217 mg | CCN=C=NCCCN(C)C.Cl
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.4 mmol, 172 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | N-(4-[1,2,4]oxadiazol-3-yl-phenyl)-3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide | 220 mg, 48% | O1N=C(N=C1)C1=CC=C(C=C1)NC(CC(N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)=O | C23H20F3N5O4
